US08293735B2
6-(4-Azetidin-1-yl-piperidin-1-ylmethyl)-2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine
Prepared according to the method used in the preparation of 4-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-1-oxa-4,9-diaza-spiro[5.5]undecane-9-carboxylic acid tert-butyl ester using 4-azetidin-1-yl-piperidine in place of 4-ethoxy-4-methylaminomethyl-piperidine-1-carboxylic acid tert-butyl ester. The title compound was obtained as an off-white solid (219 mg, 48%).

reactant | 4-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-1-oxa-4,9-diaza-spiro[5.5]undecane-9-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2(CN(CCO2)CC2=CC=3N=C(N=C(C3S2)N2CCOCC2)Cl)CC1 | C24H34ClN5O4S
reactant | 4-azetidin-1-yl-piperidine | N1(CCC1)C1CCNCC1 | C8H16N2
product | 6-(4-Azetidin-1-yl-piperidin-1-ylmethyl)-2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | N1(CCC1)C1CCN(CC1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)Cl | C19H26ClN5OS
